US08466282B2
1-tert-Butyl 3-methyl(3R,5S)-5-{[(4-chloro-1H-benzimidazol-2-yl)carbonyl](2-methylpropyl)amino}piperidine-1,3-dicarboxylate (1.7 g) and 4-methoxybutyl methanesulfonate (754 mg) were dissolved in DMA (50 ml), cesium carbonate (1.7 g) was added, and the mixture was stirred at 70° C. for 12 hr. The reaction mixture was poured into ice water (100 ml), and the mixture was extracted twice with ethyl acetate (100 ml). The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a less polar fraction eluted with ethyl acetate-hexane (1:4-1:1) was concentrated under reduced pressure to give 1-tert-butyl 3-methyl(3R,5S)-5-[{[7-chloro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (200 mg).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-{[(4-chloro-1H-benzimidazol-2-yl)carbonyl](2-methylpropyl)amino}piperidine-1,3-dicarboxylate | 1.7 g | ClC1=CC=CC=2NC(=NC21)C(=O)N([C@H]2C[C@H](CN(C2)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C24H33ClN4O5
reactant | 4-methoxybutyl methanesulfonate | 754 mg | CS(=O)(=O)OCCCCOC | C6H14O4S
reactant | cesium carbonate | 1.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMA | 50 ml | CC(=O)N(C)C | C4H9NO
product | 1-tert-butyl 3-methyl(3R,5S)-5-[{[7-chloro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 200 mg | ClC1=CC=CC2=C1N(C(=N2)C(=O)N([C@H]2C[C@H](CN(C2)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C)CCCCOC | C29H43ClN4O6
